US05922771
2-Benzyl-6-methoxy-1-indanone
To a solution of 2-benzylidene-6-methoxy-1-indanone (12.25 g, 48.9 mmol) in ethanol (500 ml) was added 10% hydrous palladium-carbon (1.5 g) and catalytic reduction was carried out in a hydrogen stream at atmospheric temperature and pressure. The palladium-carbon was then filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=2:8) to provide the title compound (yield 11.26 g, 92%; oil).

reactant | 2-benzylidene-6-methoxy-1-indanone | 48.9 mmol, 12.25 g | C(C1=CC=CC=C1)=C1C(C2=CC(=CC=C2C1)OC)=O | C17H14O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
product | 2-Benzyl-6-methoxy-1-indanone | yield 11.26 g, 92% | C(C1=CC=CC=C1)C1C(C2=CC(=CC=C2C1)OC)=O | C17H16O2
